US06242459B1
a) diethyl (6-chloro-2-methoxy-9-acridinyl)malonate
To a solution of sodium (1.3 g, 52 mmol) in ethanol (50 mL) was added diethyl malonate (8.8 g 55 mmol) followed by 6,9-dichloro-2-methoxyacridine (9.68 g, 35 mmol) and toluene (5 mL). The mixture was heated to reflux for 24 h, diluted with aqueous potassium carbonate, extracted with ethyl acetate, dried, and concentrated in vacuo to give solid which was purified by flash column chromatography (silica gel, 5-12% methanol:dichloromethane) to give the title compound. MS(ES) m/e 402.2 (M+H)+.

reactant | sodium | 52 mmol, 1.3 g | [Na] | Na
reactant | diethyl malonate | 55 mmol, 8.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 6,9-dichloro-2-methoxyacridine | 35 mmol, 9.68 g | ClC=1C=C2N=C3C=CC(=CC3=C(C2=CC1)Cl)OC | C14H9Cl2NO
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | diethyl (6-chloro-2-methoxy-9-acridinyl)malonate | ClC=1C=C2N=C3C=CC(=CC3=C(C2=CC1)C(C(=O)OCC)C(=O)OCC)OC | C21H20ClNO5
